US04076712
6-Methylpyrazolo[1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one
17.1 g. of 2-chloro-6-methylpyridine-3-carboxylic acid and 16.6 g. of 5-aminopyrazole are heated together at 180°-190° for 10 minutes. The mixture is cooled to room temperature and treated with methanol. The crystalline 6-methylpyrazolo[1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one is filtered off and recrystallized from dimethylformamide, yield: 11.3 g. (56%); m.p. >300°.

reactant | 2-chloro-6-methylpyridine-3-carboxylic acid | ClC1=NC(=CC=C1C(=O)O)C | C7H6ClNO2
reactant | 5-aminopyrazole | NC1=CC=NN1 | C3H5N3
solvent | methanol | CO | CH4O
product | 6-Methylpyrazolo[1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one | CC=1C=CC2=C(NC=3N(C2=O)N=CC3)N1 | C10H8N4O
